US04963543
To a solution of 4-nitrobenzyl (2R,5R,6S)-6-[(1R)-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3,7-dioxo-1-azabicyclo[3.2.0]heptane-2-carboxylate (1.2 g) in dry dichloromethane (40 ml) were added N,N-diisopropyl-N-ethylamine (0.44 ml) and trifluoromethanesulfonic anhydride (0.40 ml) at -40° C., and the solution was stirred at the same temperature for 15 minutes. To this solution were added N,N-diisopropyl-N-ethylamine (0.63 ml) and a solution of (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-(pyridin-4-ylthiomethyl)pyrrolidine (1.38 g) in dry dichloromethane (5 ml) successively at the same temperature under an atmosphere of nitrogen, and stirred at ambient temperature for 2 hours. The reaction mixture was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (4:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give 4-nitrobenzyl (5R,6S)-3-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(pyridin-4-ylthiomethyl)pyrrolidin-4-ylthio]-6-[(1R)-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.94 g).

reactant | 4-nitrobenzyl (2R,5R,6S)-6-[(1R)-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3,7-dioxo-1-azabicyclo[3.2.0]heptane-2-carboxylate | 1.2 g | [N+](=O)([O-])C1=CC=C(COC(=O)O[C@H](C)[C@@H]2[C@H]3CC([C@@H](N3C2=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C24H21N3O11
reactant | N,N-diisopropyl-N-ethylamine | 0.44 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.40 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-diisopropyl-N-ethylamine | 0.63 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-(pyridin-4-ylthiomethyl)pyrrolidine | 1.38 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSC1=CC=NC=C1 | C18H19N3O4S2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-nitrobenzyl (5R,6S)-3-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(pyridin-4-ylthiomethyl)pyrrolidin-4-ylthio]-6-[(1R)-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.94 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC2=C(N3C([C@@H]([C@H]3C2)[C@@H](C)OC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])CSC2=CC=NC=C2)C=C1 | C42H38N6O14S2
